US07737166B2
5-Bromo-4-fluoro-2-hydroxybenzoic acid (I-227)
4-Fluoro-2-hydroxybenzoic acid (29.01 g, 0.186 mol) was dissolved in acetic acid (290 ml), then a solution of bromine (31.18 g, 0.195 mol) dissolved in acetic acid (15 ml) was gradually dropwise added at room temperature (1 hour). After stirred at 60° C. for 24 hours, this was cooled to room temperature. The reaction liquid was dried to solidness under reduced pressure, the residue was dissolved in methanol (100 ml), and this was poured into water (600 ml). After stirring at room temperature for 15 minutes, the precipitated crystal was washed and collected by filtration, and dried to obtain the entitled compound (35.36 g, 93%) as a colorless solid.

reactant | 4-Fluoro-2-hydroxybenzoic acid | 0.186 mol, 29.01 g | FC1=CC(=C(C(=O)O)C=C1)O | C7H5FO3
reactant | bromine | 0.195 mol, 31.18 g | BrBr | Br2
solvent | acetic acid | 290 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-4-fluoro-2-hydroxybenzoic acid | 35.36 g, 93% | BrC=1C(=CC(=C(C(=O)O)C1)O)F | C7H4BrFO3
